US07781454B2
Step 2: 2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]-N-methylethanaminium chloride
tert-butyl {2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl}methylcarbamate (125 mg, 0.192 mmol) was dissolved in TFA (5 mL). After 20 minutes, the reaction was concentrated and the resulting residue was purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. Product fractions were concentrated under reduced pressure and the resulting solid was dissolved in MeCN (3 mL), cooled to −78° C. and 1N HCl (5 mL) added. This froze and was lyophilized to yield the title compound. 1H NMR (DMSO-d6) δ 8.68 (dd, J=4.5 Hz, J=1.5 Hz, 1H), 8.57 (s, 1H), 8.26 (d, J=8.0 Hz, 1H), 8.11 (s, 1H), 7.96 (m, 1H), 7.83 (d, J=9.0 Hz, 1H), 7.72 (m, 1H), 7.58 (m, 1H), 7.44 (dd, J=4.6 Hz, J=8.0 Hz, 1H), 7.35 (m, 1H), 7.28 (m, 1H), 6.50 (s, 2H), 3.70 (s, 3H), 3.20 (s, 2H), 3.00 (s, 2H), 2.20 (m, 3H).

reactant | tert-butyl {2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl}methylcarbamate | 0.192 mmol, 125 mg | ClC1=C(C2=C(N(N=N2)CC2=NN(C3=NC=CC=C32)C(=O)N(CCN(C(OC(C)(C)C)=O)C)C)C=C1)OC1=CC(=CC(=C1)C#N)Cl | C30H29Cl2N9O4
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[[(3-{[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]-N-methylethanaminium chloride | [Cl-].ClC1=C(C2=C(N(N=N2)CC2=NN(C3=NC=CC=C32)C(=O)N(CC[NH2+]C)C)C=C1)OC1=CC(=CC(=C1)C#N)Cl | InChI=1S/C25H21Cl2N9O2.ClH/c1-29-8-9-34(2)25(37)36-24-18(4-3-7-30-24)20(32-36)14-35-21-6-5-19(27)23(22(21)31-33-35)38-17-11-15(13-28)10-16(26)12-17;/h3-7,10-12,29H,8-9,14H2,1-2H3;1H
